2140-09-21 10:20:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, cirrhosis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Diuresis fo 1.5L yesterday, increased versed due to agitation., weaning
   FiO2 now down to 50% sat 98%.
   Patient unable to provide history: Sedated
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2140-9-19**] 02:50 PM
   Vancomycin - [**2140-9-20**] 12:00 AM
   Cefipime - [**2140-9-21**] 03:09 AM
   Ciprofloxacin - [**2140-9-21**] 03:09 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2140-9-20**] 05:04 PM
   Other medications:
   RISS, midodrine, celexa, octreotide, lactulose, ciproflox, versed,
   fentanyl, famotidine iv, refaximin, vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-21**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.3
   HR: 56 (48 - 70) bpm
   BP: 123/59(81) {120/55(79) - 147/73(99)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,843 mL
                                                                    846 mL
   PO:
             TF:
                                                                    319 mL
   IVF:
                                                                  1,224 mL
                                                                    666 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  3,565 mL
                                                                  1,640 mL
   Urine:
                                                                  3,015 mL
                                                                    740 mL
   NG:
   200 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                 -1,722 mL
                                                                   -794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.41/41/155/25/1
   Ve: 9.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly)
   Abdominal: Soft, Distended, shifting dullness
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, multipel talengectasias on the skin
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   58 K/uL
   184 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.1 mEq/L
   78 mg/dL
   102 mEq/L
   137 mEq/L
   27.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2140-9-20**]  01:12 AM
                             [**2140-9-20**]  04:08 AM
                             [**2140-9-20**]  05:19 AM
                             [**2140-9-20**]  11:42 AM
                             [**2140-9-20**]  02:41 PM
                             [**2140-9-20**]  05:02 PM
                             [**2140-9-20**]  10:55 PM
                             [**2140-9-21**]  02:33 AM
                             [**2140-9-21**]  04:49 AM
                             [**2140-9-21**]  05:18 AM
   WBC
   5.9
   8.0
   Hct
   28.4
   27.8
   Plt
   56
   58
   Cr
   2.1
   2.4
   TCO2
   26
   28
   26
   29
   27
   27
   28
   27
   Glucose
   294
   184
   Other labs: PT / PTT / INR:20.0/34.5/1.8, ALT / AST:13/20, Alk Phos / T
   Bili:68/0.6, Amylase / Lipase:47/19, Differential-Neuts:93.2 %,
   Lymph:4.6 %, Mono:1.9 %, Eos:0.1 %, Fibrinogen:145 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:4.5 g/dL, LDH:383 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR reviewed yesterday pm tube in good position at the time,
   stable to slightly worse Bilateral airspace disease L>R.
   KUB with distended stomach.
   Microbiology: BAL negative to date
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
   sliding scale
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]): likely component of
   pulmonary edema. Creatinine increased to 2.4 from 2.1, likely hold off
   on further diuresis and allow her to requilibrate further, and likely
   resume diuresis tomorrow Cr allowing. Decrease PEEP to 12.
 UTI:
   Continue cipro, d/c cefepime as all culture data is negative. repeat
   cultures.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):
   likely HRS, continue midodrine, albumin, octreotide.
 ASCITES
   discuss with liver service, possibly hold off of paracentesis given Cr
   bump today.
Thrombocytopenia:
   holding heparin and vancomycin, change pepcid to PPI
gastroparesis/high residuals:
   start renally dosed reglan
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2140-09-22 10:57:00 Physician Attending Progress Note
Chief Complaint: ARDS resolving, Cirrhosis, refractory ascites.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Creatinine stable, HIT antibody sent.
   Patient unable to provide history: Sedated
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2140-9-19**] 02:50 PM
   Vancomycin - [**2140-9-20**] 12:00 AM
   Cefipime - [**2140-9-21**] 03:09 AM
   Ciprofloxacin - [**2140-9-21**] 03:09 AM
   Infusions:
   Propofol - 16.6 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-22**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 55 (50 - 59) bpm
   BP: 113/57(78) {101/53(71) - 138/66(90)} mmHg
   RR: 18 (9 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
   Bladder pressure: 11 (4 - 11) mmHg
   Total In:
                                                                  2,094 mL
                                                                  1,076 mL
   PO:
   TF:
                                                                     70 mL
   IVF:
                                                                  1,274 mL
                                                                    756 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,295 mL
                                                                  1,130 mL
   Urine:
                                                                  1,245 mL
                                                                    570 mL
   NG:
                                                                    350 mL
                                                                     60 mL
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -201 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/38/89.[**Numeric Identifier 433**]/24/1
   Ve: 9 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   47 K/uL
   134 mg/dL
   2.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   75 mg/dL
   104 mEq/L
   137 mEq/L
   25.8 %
   8.1 K/uL
        [image002.jpg]
                             [**2140-9-20**]  10:55 PM
                             [**2140-9-21**]  02:33 AM
                             [**2140-9-21**]  04:49 AM
                             [**2140-9-21**]  05:18 AM
                             [**2140-9-21**]  02:29 PM
                             [**2140-9-21**]  06:14 PM
                             [**2140-9-21**]  08:17 PM
                             [**2140-9-22**]  02:38 AM
                             [**2140-9-22**]  02:47 AM
                             [**2140-9-22**]  06:36 AM
   WBC
   8.0
   8.1
   Hct
   27.8
   25.8
   Plt
   58
   47
   Cr
   2.4
   2.4
   2.4
   TCO2
   27
   28
   27
   26
   26
   27
   27
   Glucose
   184
   135
   134
   Other labs: PT / PTT / INR:20.0/37.7/1.8, ALT / AST:[**12-3**], Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:247 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:4.5 g/dL, LDH:313 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR decreased lugn volume and atelectasis bilateral bases R>L.
   Microbiology: No new micro data
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   possible hepatorenal syndrome, appreciate renal input.
 ALTERATION IN NUTRITION
   continue tube feeds.
 DIABETES MELLITUS (DM), TYPE II
   continue sliding scale
 RESPIRATORY FAILURE, ACUTE ([**Doctor Last Name 2**]):
   Will gently diurese, start low dose lasix drip, goal -1L/24hours, will
   keep her on PEEP 12 due to significant atletectsis on CXR. Will discuss
   with liver service paracentesis today, and liver transplant candidacy.
   On Levofloxacin for pneumonia, complete 8 day course.
 CIRRHOSIS OF LIVER, ALCOHOLIC
   continue lactuose
 Thrombocytopenia: f/u PF4 antibody.
High residuals: on reglan tolerating this well.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2140-9-22**] 06:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2140-09-23 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2140-9-22**] 02:07 PM
   - [**Last Name (un) 1599**] with RLL secretions, BAL sent
   - lasix gtt started in AM, then stopped in hopes of doing a para on
   Friday, likely to remove 2-3 liters
   - ET advanced 2cm
   - Sent for HCV load and retic count per heme
   - HIT Ab was negative
   - PO2 was 62, increased FIO2 to 50%
   - abx will be complete on [**9-27**] for her 8 day course
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Cefipime - [**2140-9-21**] 03:09 AM
   Ciprofloxacin - [**2140-9-21**] 03:09 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-23**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 48 (48 - 65) bpm
   BP: 104/47(67) {101/47(67) - 131/68(90)} mmHg
   RR: 18 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  2,064 mL
                                                                    627 mL
   PO:
             TF:
                                                                    440 mL
                                                                    257 mL
   IVF:
                                                                  1,104 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  1,170 mL
   Urine:
                                                                  1,190 mL
                                                                    370 mL
   NG:
                                                                    110 mL
   Stool:
                                                                    500 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                    264 mL
                                                                   -543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/37/178/24/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 445
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric conjunctiva
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   73 K/uL
   8.5 g/dL
   225 mg/dL
   2.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   71 mg/dL
   109 mEq/L
   141 mEq/L
   26.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2140-9-21**]  05:18 AM
                             [**2140-9-21**]  02:29 PM
                             [**2140-9-21**]  06:14 PM
                             [**2140-9-21**]  08:17 PM
                             [**2140-9-22**]  02:38 AM
                             [**2140-9-22**]  02:47 AM
                             [**2140-9-22**]  06:36 AM
                             [**2140-9-22**]  03:37 PM
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
   WBC
   8.1
   7.7
   Hct
   25.8
   26.4
   Plt
   47
   73
   Cr
   2.4
   2.4
   2.3
   TCO2
   27
   26
   26
   27
   27
   26
   26
   Glucose
   135
   134
   225
   Other labs: PT / PTT / INR:16.6/34.6/1.5, ALT / AST:13/17, Alk Phos / T
   Bili:77/0.5, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:4.5 g/dL, LDH:238 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Microbiology: BAL: 3+ PMNs, 1+ yeast
   HCV VL pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 HEPATITIS, CHRONIC VIRAL
 HYPOXEMIA
   47 yo woman with a history of chronic Hep C cirrhosis complicated by
   portal HTN and refractory ascites, DM, presented with abdominal
   ascites, and found to have an elevated creatinine and transferred to
   MICU due to worsening respiratory status.
    # Respiratory distress- Pt is now s/p endotracheal intubation for
   hypoxemic respiratory failure, tolerating ARDSnet protocol well.
   Suspect mild pulmonary edema secondary to HRS versus ARDS (although no
   e/o HAP on BAL micro) Also with restrictive process given large ascitic
   abdomen. Minimal improvement in weaning from vent. Increased FI02 to
   50%. Held lasix gtt per renal recs. Will attempt small volume para
   today.
   - check daily weight
   - hold on lasix gtt for now
   - elevate head of bed >30 degrees.
   - albuterol/ipratropium nebs q6h prn SOB or wheezing
   - sparing use of diuretics due to HRS
   - daily portable chest films
   - continue fent/propofol
   - VAP bundle
   # ARF: Pt w/ Cr of 2.7 on admission from baseline of 1.2 in early [**Month (only) 93**],
   now 2.3, up from 2.1 yesterday. Suspect prerenal vs HRS as etiology of
   pt's renal failure
   - Continue HRS regimen (octreotide, midodrine, albumin)
   - Will attempt small volume paracentesis today to improve resp status
   and minimize fluid shifts
   - avoid nephrotoxins
   - keep MAP >60
   # HCV cirrhosis and ascites: Pt w/ chronic HCV and cirrhosis (Grade 1
   varices and congestive gastropathy) that is usually managed by weekly
   paracentesis, s/p failed TIPS ([**7-20**]). SBP (-) on [**9-13**]. Also has elevated
   AFP=10.2. Para cx NG from [**9-13**]. Patent main portal vein and hepatic
   vasculature.
   - continue [**Month (only) **]/mid - patient appears to be stabilizing
   - small volume para
   - continue lactulose
   - TIPS to be done as outpatient if pt improves
   - f/u liver recs
    - f/u HCV viral load
   # Thrombocytopenia: Differential includes drug-induced (heparin versus
   vanco), liver disease, sequestration [**2-15**] splenomegaly. Do not suspect
   hemolysis as bili is normal. PF4 antibody negative.
   - Can restart heparin products
   - Trend plts
   - follow up heme recs
   # UTI: Pt has klebsiella growing on urine culture.
   - d/c cefepime
   - 7 day course of abx with levo given concern for pulm source as well
   D6/7 today
   # Diabetes.
   - Insulin SS for now as pt on continuous TF
   # Decreased stomach motility: KUB with large stomach, large residuals
   - will start reglan 5mg TID
    FEN: No IVF, replete electrolytes as needed, started TF, appreciate
   nutrition recs
   Prophylaxis: heparin SC
   Access: Peripherals
   Code: Full (discussed with patient)
   Communication: Patient and family
    Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2140-9-22**] 06:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2140-09-23 10:43:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, [**Doctor Last Name 2**]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Bronchoscopy with minimal secretions yesterday. HIT antibody negative.
   Patient unable to provide history: Sedated
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Cefipime - [**2140-9-21**] 03:09 AM
   Ciprofloxacin - [**2140-9-21**] 03:09 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Other medications:
   humalog sliding scale, celexa, midodrine, octreotide, lactulose,
   chlorhexidine, vitamin K, rifaximin, reglan levofloxacin, protonix,
   miconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-23**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 63 (48 - 65) bpm
   BP: 124/63(86) {104/47(67) - 131/68(90)} mmHg
   RR: 16 (9 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,064 mL
                                                                    912 mL
   PO:
             TF:
                                                                    440 mL
                                                                    364 mL
   IVF:
                                                                  1,104 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  1,270 mL
   Urine:
                                                                  1,190 mL
                                                                    470 mL
   NG:
                                                                    110 mL
   Stool:
                                                                    500 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                    264 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/37/178/24/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 445
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   73 K/uL
   225 mg/dL
   2.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   71 mg/dL
   109 mEq/L
   141 mEq/L
   26.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2140-9-21**]  05:18 AM
                             [**2140-9-21**]  02:29 PM
                             [**2140-9-21**]  06:14 PM
                             [**2140-9-21**]  08:17 PM
                             [**2140-9-22**]  02:38 AM
                             [**2140-9-22**]  02:47 AM
                             [**2140-9-22**]  06:36 AM
                             [**2140-9-22**]  03:37 PM
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
   WBC
   8.1
   7.7
   Hct
   25.8
   26.4
   Plt
   47
   73
   Cr
   2.4
   2.4
   2.3
   TCO2
   27
   26
   26
   27
   27
   26
   26
   Glucose
   135
   134
   225
   Other labs: PT / PTT / INR:16.6/34.6/1.5, ALT / AST:13/17, Alk Phos / T
   Bili:77/0.5, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:4.5 g/dL, LDH:238 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR
   Microbiology: BAL 3+ PMN negative gram stain
   HCV Vl pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   stable with good urine output. Holding off on diuresis, will plan for
   paracentesis for today.
 ALTERATION IN NUTRITION
   on Tube feeds
 DIABETES MELLITUS (DM), TYPE II
   on sliding scale, on reglan for decreased gut motility
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   will attempt to wean vent after paracentesis, will perform bedside
   thoracic ultrasound to assess for right sided pleural effusion.
   Levofloxacin for UTI +/- pneumonia.
 CIRRHOSIS OF LIVER, ALCOHOLIC
   3 L paracentesis today. [**Month (only) 11**] repeat in am [**9-24**] if BP allows this
Thrombocytepenia: improved s/p d/c vanco and ranitidine
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2140-9-22**] 06:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2140-09-24 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Refractory ascites
   24 Hour Events:
 PARACENTESIS - At [**2140-9-23**] 01:27 PM
   3.5 liters removed
   - Renal: urine sediment shows fine granular casts, crystals (possibly
   sulfa crystals)
   - U/S-guided Paracentesis at bedside, removed ~3.5L
   - Looked at right lung at bedside with U/S, does appear to have fluid
   with lung collapse
   - Hold TF o/n in anticipation of extubation in am
   - gave po hydral 10mg x1 for SBP in 160-170's
   Patient unable to provide history: Sedated
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-9-23**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-24**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 48 (46 - 63) bpm
   BP: 140/68(93) {92/50(71) - 167/77(109)} mmHg
   RR: 18 (8 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,854 mL
                                                                    328 mL
   PO:
             TF:
                                                                    349 mL
   IVF:
                                                                    584 mL
                                                                    148 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,410 mL
                                                                    300 mL
   Urine:
                                                                  1,310 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -556 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 9.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   104 K/uL
   8.6 g/dL
   179 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   60 mg/dL
   111 mEq/L
   142 mEq/L
   26.9 %
   5.9 K/uL
        [image002.jpg]
                             [**2140-9-21**]  02:29 PM
                             [**2140-9-21**]  06:14 PM
                             [**2140-9-21**]  08:17 PM
                             [**2140-9-22**]  02:38 AM
                             [**2140-9-22**]  02:47 AM
                             [**2140-9-22**]  06:36 AM
                             [**2140-9-22**]  03:37 PM
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
                             [**2140-9-24**]  04:53 AM
   WBC
   8.1
   7.7
   5.9
   Hct
   25.8
   26.4
   26.9
   Plt
   47
   73
   104
   Cr
   2.4
   2.4
   2.3
   1.8
   TCO2
   26
   26
   27
   27
   26
   26
   Glucose
   135
   134
   225
   179
   Other labs: PT / PTT / INR:16.9/35.3/1.5, ALT / AST:15/25, Alk Phos / T
   Bili:71/1.0, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:4.5 g/dL, LDH:238 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 BRADYCARDIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 HEPATITIS, CHRONIC VIRAL
 HYPOXEMIA
   47 yo woman with a history of chronic Hep C cirrhosis complicated by
   portal HTN and refractory ascites, DM, presented with abdominal
   ascites, and found to have an elevated creatinine and transferred to
   MICU due to worsening respiratory status.
    # Respiratory distress- Pt is now s/p endotracheal intubation for
   hypoxemic respiratory failure. Restrictive process given large ascitic
   abdomen. Also with likely hepatic hydrothorax given right sided pleural
   effusion. Able to wean down FIO2 to 40% overnight. Still requiring PEEP
   of 12. Had bronch on [**9-22**] with BAL of RLL.  Still no growth. Will
   repeat para today and attempt to wean sedation followed by trial of PS.
   Pt had been apneic on PS day before.
   - check daily weight
   - re tap today as pt tolerated procedure yesterday.
   - elevate head of bed >30 degrees.
   - albuterol/ipratropium nebs q6h prn SOB or wheezing
   - continue fent/propofol/versed for sedation and wean after tap
   - VAP bundle
   - will attempt extubation after 2^nd para
   - holding tube feeds for now for possible extubation
   # ARF: Pt w/ Cr of 2.7 on admission from baseline of 1.2 in early [**Month (only) 93**].
   Peaked at 2.3 now trending down to 1.8 today. Urine sediment with
   crystals/ granular casts. Continue HRS regimen (octreotide, midodrine,
   albumin) for now. Albumin with para. Underwent small volume
   paracentesis yesterday with improvement in resp status and minimize
   fluid shifts
   - f/u renal recs
   - albumin with tap
   - trend creatinine
   - avoid nephrotoxins
   - keep MAP >60
   # HCV cirrhosis and ascites: Pt w/ chronic HCV and cirrhosis (Grade 1
   varices and congestive gastropathy) that is usually managed by weekly
   paracentesis, s/p failed TIPS ([**7-20**]). SBP (-) on [**9-13**]. Also has elevated
   AFP=10.2. Para cx NG from [**9-13**]. Patent main portal vein and hepatic
   vasculature.
   - continue [**Month (only) **]/mid - patient appears to be stabilizing
   - Reattempt small volume para today
   - continue lactulose
   - TIPS to be done as outpatient if pt improves
   -  f/u liver recs
    - f/u HCV viral load
   # Thrombocytopenia: Differential includes drug-induced, liver disease,
   sequestration [**2-15**] splenomegaly. Do not suspect hemolysis as bili is
   normal. PF4 antibody negative.
   - Can restart heparin products after para today
   - Trend plts
   - follow up heme recs
   # UTI: Pt has klebsiella growing on urine culture. Was on cefepime
   initially..
   - abx with levo given concern for pulm source as well D7/7 today
   # Diabetes.
   - Insulin SS for now as pt on continuous TF
   # Decreased stomach motility: KUB with large stomach, large residuals
   - reglan 5mg TID
    FEN: No IVF, replete electrolytes as needed, started TF, appreciate
   nutrition recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-09-24 10:48:00 Physician Attending Progress Note
Chief Complaint: [**Doctor Last Name 2**], refractory ascites.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PARACENTESIS - At [**2140-9-23**] 01:27 PM
   3.5 liters removed
   Creatinine improved this am.
   tube feeds held for possibel extubation this am.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Other medications:
   Insulin sliding scale, celexa, midodrine, octreotide, lactulose,
   chlorhexidine, rifaximin, reglan, levofloxacin, protonix, miconazole
   powder, fentanyl 300, versed 6.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-24**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 50 (46 - 59) bpm
   BP: 95/46(64) {92/46(64) - 167/77(109)} mmHg
   RR: 11 (8 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,854 mL
                                                                    544 mL
   PO:
             TF:
                                                                    349 mL
   IVF:
                                                                    584 mL
                                                                    274 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,410 mL
                                                                    420 mL
   Urine:
                                                                  1,310 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -556 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: right)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Unresponsive, Movement:
   Purposeful, Tone: Normal, sedated.
   Labs / Radiology
   8.6 g/dL
   104 K/uL
   179 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   60 mg/dL
   111 mEq/L
   142 mEq/L
   26.9 %
   5.9 K/uL
        [image002.jpg]
                             [**2140-9-21**]  02:29 PM
                             [**2140-9-21**]  06:14 PM
                             [**2140-9-21**]  08:17 PM
                             [**2140-9-22**]  02:38 AM
                             [**2140-9-22**]  02:47 AM
                             [**2140-9-22**]  06:36 AM
                             [**2140-9-22**]  03:37 PM
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
                             [**2140-9-24**]  04:53 AM
   WBC
   8.1
   7.7
   5.9
   Hct
   25.8
   26.4
   26.9
   Plt
   47
   73
   104
   Cr
   2.4
   2.4
   2.3
   1.8
   TCO2
   26
   26
   27
   27
   26
   26
   Glucose
   135
   134
   225
   179
   Other labs: PT / PTT / INR:16.9/35.3/1.5, ALT / AST:15/25, Alk Phos / T
   Bili:71/1.0, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:4.5 g/dL, LDH:238 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR: pending
   Microbiology: culture negative to date
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): improving s/p
   albumin and paracentesis.
 ALTERATION IN NUTRITION: TF on hold for possible extubation. On
   reglan for decreased for GI motility.
 INEFFECTIVE COPING: will continue to update family
 DIABETES MELLITUS (DM), TYPE II: increase sliding scale
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):
   repeat para today, wean PEEP, and wean sedation and plan for exutbation
   early afternoon. Completes levoflox for pneumonia today.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC:
   may be a candidate for repeat TIPS, continue lactulose and rifaximin.
 HEPATITIS, CHRONIC VIRAL
   f/u HCV viral load.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Pt is critically ill.
   Total time spent: 33 minutes

2140-09-25 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-24**]
   Para performed with 3L of fluid removal- serous
   Lightened sedation
   24 Hour Events:
 PARACENTESIS - At [**2140-9-24**] 12:51 PM
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-25**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 65 (47 - 65) bpm
   BP: 141/79(99) {95/46(64) - 164/79(102)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,620 mL
                                                                    479 mL
   PO:
             TF:
                                                                    102 mL
                                                                    197 mL
   IVF:
                                                                    907 mL
                                                                    122 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  4,330 mL
                                                                    490 mL
   Urine:
                                                                  1,130 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
                                                                  3,200 mL
   Balance:
                                                                 -2,710 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 192 (192 - 192) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/36/139/20/-1
   Ve: 9.5 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   122 K/uL
   8.6 g/dL
   165 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   55 mg/dL
   114 mEq/L
   143 mEq/L
   27.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2140-9-22**]  02:47 AM
                             [**2140-9-22**]  06:36 AM
                             [**2140-9-22**]  03:37 PM
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
                             [**2140-9-24**]  04:53 AM
                             [**2140-9-24**]  12:12 PM
                             [**2140-9-24**]  08:51 PM
                             [**2140-9-25**]  04:04 AM
                             [**2140-9-25**]  04:20 AM
   WBC
   7.7
   5.9
   6.1
   Hct
   26.4
   26.9
   27.0
   Plt
   73
   104
   122
   Cr
   2.3
   1.8
   1.7
   TCO2
   27
   27
   26
   26
   24
   24
   23
   Glucose
   [**Telephone/Fax (3) 8240**]
   Other labs: PT / PTT / INR:16.4/46.0/1.5, ALT / AST:21/41, Alk Phos / T
   Bili:115/0.9, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:4.5 g/dL, LDH:238 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
[**2140-9-22**] 2:27 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2140-9-22**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Final [**2140-9-24**]):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    ~4000/ML.
      YEAST.    ~3000/ML.  STRAIN 2.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
 BRADYCARDIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 HEPATITIS, CHRONIC VIRAL
 HYPOXEMIA
   47 yo woman with a history of chronic Hep C cirrhosis complicated by
   portal HTN and refractory ascites, DM, presented with abdominal
   ascites, and found to have an elevated creatinine and transferred to
   MICU due to worsening respiratory status.
    # Respiratory distress- Pt is now s/p endotracheal intubation for
   hypoxemic respiratory failure. Restrictive process given large ascitic
   abdomen. Also with likely hepatic hydrothorax given right sided pleural
   effusion. Now on FIO2 to 40% PS, PEEP 5. Had bronch on [**9-22**] with BAL of
   RLL.  Had para for last 2 days in anticipation of extubation.
   - check daily weight.
   - elevate head of bed >30 degrees.
   - albuterol/ipratropium nebs q6h prn SOB or wheezing
   - continue fent/propofol/versed for sedation and wean after tap
   - VAP bundle
   - will consider extubation
   - holding tube feeds for now for possible extubation
   # ARF: Pt w/ Cr of 2.7 on admission from baseline of 1.2 in early [**Month (only) 93**].
   Peaked at 2.3 now trending down to 1.8 today. Urine sediment with
   crystals/ granular casts. Continue HRS regimen (octreotide, midodrine,
   albumin) for now. Albumin with para. Underwent small volume
   paracentesis yesterday with improvement in resp status and minimize
   fluid shifts
   - f/u renal recs
   - albumin with tap
   - trend creatinine
   - avoid nephrotoxins
   - keep MAP >60
   # HCV cirrhosis and ascites: Pt w/ chronic HCV and cirrhosis (Grade 1
   varices and congestive gastropathy) that is usually managed by weekly
   paracentesis, s/p failed TIPS ([**7-20**]). SBP (-) on [**9-13**]. Also has elevated
   AFP=10.2. Para cx NG from [**9-13**]. Patent main portal vein and hepatic
   vasculature.
   - continue [**Month (only) **]/mid - patient appears to be stabilizing
   - Reattempt small volume para today
   - continue lactulose
   - TIPS to be done as outpatient if pt improves
   -  f/u liver recs
    - f/u HCV viral load
   # Thrombocytopenia: Differential includes drug-induced, liver disease,
   sequestration [**2-15**] splenomegaly. Do not suspect hemolysis as bili is
   normal. PF4 antibody negative.
   - Can restart heparin products after para today
   - Trend plts
   - follow up heme recs
   # UTI: Pt has klebsiella growing on urine culture. Was on cefepime
   initially..
   - abx with levo given concern for pulm source as well D7/7 today
   # Diabetes.
   - Insulin SS for now as pt on continuous TF
   # Decreased stomach motility: KUB with large stomach, large residuals
   - reglan 5mg TID
    FEN: No IVF, replete electrolytes as needed, started TF, appreciate
   nutrition recs
   ICU Care
   Nutrition: holding tube feeds for extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT: peumoboots
   Stress ulcer: protonix
   VAP:  standard protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: extubatino today, ICU for now

2140-09-25 09:44:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, ascites
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47yo F has HCV/Etoh cirrhosis and refractory ascites s/p TIPS who p/w
   UTI and renal failure c/b respiratory failure, now improving s/p
   paracentesis x 2
   24 Hour Events:
 PARACENTESIS - At [**2140-9-24**] 12:51 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-9-25**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2140-9-25**] 07:59 AM
   Other medications:
   Changes to medical and family history: NONE
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-25**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 67 (47 - 67) bpm
   BP: 108/49(71) {95/46(64) - 164/79(102)} mmHg
   RR: 14 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,620 mL
                                                                    574 mL
   PO:
             TF:
                                                                    102 mL
                                                                    197 mL
   IVF:
                                                                    907 mL
                                                                    158 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  4,330 mL
                                                                    570 mL
   Urine:
                                                                  1,130 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
                                                                  3,200 mL
   Balance:
                                                                 -2,710 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 437 (192 - 437) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/36/139/20/-1
   Ve: 6.3 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen
l: awake, slightly agitated
   HEENT: NCAT
   Pulm: diminished at bases bilaterally, transmitted vent sounds
   CV: regular, soft SM, no gallop
   Abd: distended, non-tender on sedation, (+) bowel sounds
   Ext: trace edema bilaterally
   Neuro: following simple commands, slightly agitated with stimuli
   Labs / Radiology
   8.6 g/dL
   122 K/uL
   165 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   55 mg/dL
   114 mEq/L
   143 mEq/L
   27.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2140-9-22**]  02:47 AM
                             [**2140-9-22**]  06:36 AM
                             [**2140-9-22**]  03:37 PM
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
                             [**2140-9-24**]  04:53 AM
                             [**2140-9-24**]  12:12 PM
                             [**2140-9-24**]  08:51 PM
                             [**2140-9-25**]  04:04 AM
                             [**2140-9-25**]  04:20 AM
   WBC
   7.7
   5.9
   6.1
   Hct
   26.4
   26.9
   27.0
   Plt
   73
   104
   122
   Cr
   2.3
   1.8
   1.7
   TCO2
   27
   27
   26
   26
   24
   24
   23
   Glucose
   [**Telephone/Fax (3) 8240**]
   Other labs: PT / PTT / INR:16.4/46.0/1.5, ALT / AST:21/41, Alk Phos / T
   Bili:115/0.9, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:4.5 g/dL, LDH:238 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])/HYPOXEMIA
   - improved s/p paracentesis
   - will d'c versed today, wean Fentanyl; still has a weak cough
   - replete phos
   - consider extubation if more awake
   - no new growth on sputum culture, will d/c levofloxacin
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - creatinine improved, on midodrine/octreotide
   - will d/w liver team about restarting diuretics
 CIRRHOSIS OF LIVER, ALCOHOLIC
   - on rifaximin/lactulose
   - for outpatient TIPS
   - will ask liver about restarting diuretics
 HEPATITIS, CHRONIC VIRAL
   - viral load pending
 DIABETES MELLITUS (DM), TYPE II
   - on insulin sliding scale
   ICU Care
   Nutrition: Restart TF this afternoon if not going to extubate
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin(pneumoboots)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2140-09-26 07:15:00 Physician Resident Progress Note
Chief Complaint: abd distension, LE edema, ARF
   24 Hour Events:
   - still appeared a little too sleepy and weak to extubated
   - had a PS trial and gas was 7.37/42/94, RSBI 24 in PM, will plan for
   extubation in AM
   - added PRN haldol for agitation
   - started fentanyl patch
   - started lasix 20mg, aldactone 50mg
   - BP was elevated to 180, concern for withdrawal, gave fentanyl bolus
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-9-25**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2140-9-26**] 12:51 AM
   Fentanyl - [**2140-9-26**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-26**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 65 (53 - 67) bpm
   BP: 123/63(85) {102/43(65) - 177/80(112)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,246 mL
                                                                     85 mL
   PO:
             TF:
                                                                    391 mL
                                                                      2 mL
   IVF:
                                                                    325 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    410 mL
   Urine:
                                                                  1,515 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 542 (423 - 542) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 10 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.38/41/159/23/0
   NIF: -45 cmH2O
   Ve: 5.7 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   8.6 g/dL
   281 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.7 mEq/L
   49 mg/dL
   115 mEq/L
   145 mEq/L
   27.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
                             [**2140-9-24**]  04:53 AM
                             [**2140-9-24**]  12:12 PM
                             [**2140-9-24**]  08:51 PM
                             [**2140-9-25**]  04:04 AM
                             [**2140-9-25**]  04:20 AM
                             [**2140-9-25**]  05:49 PM
                             [**2140-9-26**]  02:14 AM
                             [**2140-9-26**]  02:35 AM
   WBC
   7.7
   5.9
   6.1
   7.2
   Hct
   26.4
   26.9
   27.0
   27.4
   Plt
   73
   104
   122
   142
   Cr
   2.3
   1.8
   1.7
   1.7
   TCO2
   26
   24
   24
   23
   25
   25
   Glucose
   [**Telephone/Fax (3) 8259**]81
   Other labs: PT / PTT / INR:15.8/45.9/1.4, ALT / AST:18/36, Alk Phos / T
   Bili:114/0.7, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:4.5 g/dL, LDH:387 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   47 yo woman with a history of chronic Hep C cirrhosis complicated by
   portal HTN and refractory ascites, DM, presented with abdominal
   ascites, and found to have an elevated creatinine and transferred to
   MICU due to worsening respiratory status.
    # Respiratory distress- Restrictive process given large ascitic
   abdomen. Also with likely hepatic hydrothorax given right sided pleural
   effusion. Successful RSBI this AM and tolerating trial of PS 5/5
   overnight. Had bronch on [**9-22**] with BAL of RLL.  Had para x 2 in
   anticipation of extubation.
   - D/C versed and wean fentanyl
   - Attempt extubation today
   - check daily weight.
   - albuterol/ipratropium nebs q6h prn SOB or wheezing
   - holding tube feeds for now for possible extubation
   - aspiration percuations
   # ARF: Pt w/ Cr of 2.7 on admission from baseline of 1.2 in early [**Month (only) 93**].
   Peaked at 2.3 now trending down to 1.7 today. Likely not hepatorenal
   given improvement, though difficult to say given HRS treatment.
   Continue HRS regimen (octreotide, midodrine) for now. Albumin with
   para. Underwent small volume paracentesis x 2 with improvement in resp
   status and minimal fluid shifts
   - redose meds
   - trend creatinine
   - avoid nephrotoxins
   - keep MAP >60
   # HCV cirrhosis and ascites: Pt w/ chronic HCV and cirrhosis (Grade 1
   varices and congestive gastropathy) that is usually managed by weekly
   paracentesis, s/p failed TIPS ([**7-20**]). SBP (-) on [**9-13**]. Also has elevated
   AFP=10.2. Para cx NG from [**9-13**]. Patent main portal vein and hepatic
   vasculature.
   - continue [**Month (only) **]/mid - patient improving
   - continue rifaximin and  lactulose
   - TIPS to be done as outpatient if pt improves
   -  f/u liver recs
    - f/u HCV viral load
   - continue lasix and aldactone
   # HTN: may be related to her decreased in fentanyl and some element of
   withdrawal
   - continue fentanyl patch, may need to titrate up
   - PRN hydral, none needed so far
   # Thrombocytopenia: Differential includes drug-induced, liver disease,
   sequestration [**2-15**] splenomegaly. Do not suspect hemolysis as bili is
   normal. PF4 antibody negative. Restarted
   - Trend plts
   # UTI: Pt has klebsiella growing on urine culture. Completed 7 day of
   course of antibiotics.
   -d/c levoflox
   # Diabetes.
   - Insulin SS for now as pt on continuous TF
   # Decreased stomach motility: KUB with large stomach, large residuals
   previously
   - reglan 5mg TID
    FEN: No IVF, replete electrolytes as needed, holding TF, appreciate
   nutrition recs
   ICU Care
   Nutrition: speech and swallow consult post extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM- will remove today
   PICC Line - [**2140-9-16**] 02:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: mouth care, extubation today
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2140-09-26 10:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Doing well on pressure support trial. was sedated yesterday and hence
   not extubated.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Benzocaine
   Unknown; genera
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2140-9-26**] 02:00 AM
   Pantoprazole (Protonix) - [**2140-9-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2140-9-26**] 08:00 AM
   Other medications:
   citlopram, midodrine, octreotide, rifaximin, reglan, pantoprazole,
   miconazole powder, nystatin, heparin s/c, spironolactone, lasix,
   fentanyl 75mcg/72hour, lactulose [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-26**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 60 (53 - 65) bpm
   BP: 139/63(90) {116/48(72) - 177/80(112)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,246 mL
                                                                    184 mL
   PO:
             TF:
                                                                    391 mL
                                                                      2 mL
   IVF:
                                                                    325 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    550 mL
   Urine:
                                                                  1,515 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 466 (423 - 542) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 10 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.38/41/159/23/0
   NIF: -45 cmH2O
   Ve: 5.8 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   142 K/uL
   281 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.7 mEq/L
   49 mg/dL
   115 mEq/L
   145 mEq/L
   27.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2140-9-23**]  04:52 AM
                             [**2140-9-23**]  05:21 AM
                             [**2140-9-24**]  04:53 AM
                             [**2140-9-24**]  12:12 PM
                             [**2140-9-24**]  08:51 PM
                             [**2140-9-25**]  04:04 AM
                             [**2140-9-25**]  04:20 AM
                             [**2140-9-25**]  05:49 PM
                             [**2140-9-26**]  02:14 AM
                             [**2140-9-26**]  02:35 AM
   WBC
   7.7
   5.9
   6.1
   7.2
   Hct
   26.4
   26.9
   27.0
   27.4
   Plt
   73
   104
   122
   142
   Cr
   2.3
   1.8
   1.7
   1.7
   TCO2
   26
   24
   24
   23
   25
   25
   Glucose
   [**Telephone/Fax (3) 8259**]81
   Other labs: PT / PTT / INR:15.8/45.9/1.4, ALT / AST:18/36, Alk Phos / T
   Bili:114/0.7, Amylase / Lipase:47/19, Differential-Neuts:89.6 %,
   Lymph:6.4 %, Mono:1.7 %, Eos:2.1 %, Fibrinogen:277 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:4.5 g/dL, LDH:387 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR improved right airspace disease, persistent right pleural
   effusion.
   Microbiology: BAL [**9-22**] yeast
   Urine culture klebsiella previously s/p course of levofloxacin
   Assessment and Plan
 HYPERTENSION, BENIGN:
   intermittent, concerning for withdrawal, on fentanyl patch for this.d/c
   A-line.
 IMPAIRED SKIN INTEGRITY;
   continue zinc oxide to excoriated area.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   continue octreotide, midodrine, s/p albumin wiht her paracenteses.
 ALTERATION IN NUTRITION
   holding tube feeds for extubation, assess swallow after extubation, and
   place NG tube if fails.
 INEFFECTIVE COPING:
   continue to update family
 DIABETES MELLITUS (DM), TYPE II;
   continue sliding scale
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Resolving, continue diuresis, doing well on pressure support trial,
   will extubate this am.
 Thrombocytopenia: resolved s/p d/c on vanco and ranitidine
 Encephalopathy: continue lower dose lactulose.
   ICU Care
   Nutrition:
   Comments: Tf on hold for extubation.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-16**] 12:34 PM
   PICC Line - [**2140-9-16**] 02:40 PM
   Comments: r/a need for PICC line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2140-9-26**] 15:55 ------